US09340547B2
a) tert-Butyl 1-(2-(phenylcarbamoyl)-1H-pyrrol-1-ylcarbamoyl)cyclopropylcarbamate
The title compound was prepared from 1-amino-N-phenyl-1H-pyrrole-2-carboxamide (0.30 g, 1.5 mmol) and 1-(tert-butoxycarbonylamino)cyclopropanecarboxylic acid (0.30 g, 1.5 mmol) following the experimental procedure described in Preparation 73a. 0.55 g (91% yield) of the desired compound were obtained.

reactant | 1-amino-N-phenyl-1H-pyrrole-2-carboxamide | 1.5 mmol, 0.30 g | NN1C(=CC=C1)C(=O)NC1=CC=CC=C1 | C11H11N3O
reactant | 1-(tert-butoxycarbonylamino)cyclopropanecarboxylic acid | 1.5 mmol, 0.30 g | C(C)(C)(C)OC(=O)NC1(CC1)C(=O)O | C9H15NO4
product | tert-Butyl 1-(2-(phenylcarbamoyl)-1H-pyrrol-1-ylcarbamoyl)cyclopropylcarbamate | 0.55 g, 91% yield | C1(=CC=CC=C1)NC(=O)C=1N(C=CC1)NC(=O)C1(CC1)NC(OC(C)(C)C)=O | C20H24N4O4
